US07351725B2
4-(Nonylthio)benzaldehyde
To a solution of 3.15 g (10.0 mmol) of 1-bromo-4-(nonylthio)benzene in 50 mL anhydrous THF was slowly added 9.4 mL of n-BuLi (1.6 M in hexanes, 15 mmol) at −50° C. The mixture was aged at the same temperature for 1 h before the addition of 2.3 mL of anhydrous DMF. The reaction mixture was allowed to warm to 0° C. and was quenched with 2 N HCl to pH=1. The layers were separated and the aqueous layer was extracted with ethyl acetate (50 mL×2). The combined organic layer and extractions were washed with water and concentrated to oil. Flash chromatography on a Biotage 40M cartridge using 5% ethyl acetate/hexanes afforded 2.35 g (89%) of the title compound as light yellow oil: 1H NMR (500 MHz) δ 0.91 (t, J=7.0, 3H), 1.30-1.76 (m, 14H), 3.03 (t, J=7.4, 2H), 7.37 (d, J=8.5, 2H), 7.78 (d, J=8.5, 2H), 9.95 (s, 1H); LC-1: 4.8 min; ESI-MS 265 (M+H).

reactant | 1-bromo-4-(nonylthio)benzene | 10.0 mmol, 3.15 g | BrC1=CC=C(C=C1)SCCCCCCCCC | C15H23BrS
reactant | n-BuLi | 15 mmol, 1.6 M, 9.4 mL | [Li]CCCC
reactant | DMF | 2.3 mL | CN(C)C=O | C3H7NO
solvent | THF | 50 mL | C1CCOC1 | C4H8O
product | 4-(Nonylthio)benzaldehyde | 2.35 g, 89% | C(CCCCCCCC)SC1=CC=C(C=O)C=C1 | C16H24OS
